US07012066B2
To a solution of 1-methyl-1-hydroxycarbonylcyclohexane (10 g, 70 mmol) in tetrahydrofuran(300 mL) at 0° C. was added 1M diborane in tetrahydrofuran (200 mL, 200 mmol) over 90 minutes. The cooling bath was removed and the reaction mixture was stirred at room temperature for two days. The remaining borane was quenched by the slow addition of saturated sodium bisulfate (10 mL) over 90 min with cooling. Additional saturated sodium bisulfate (200 mL) was added and after 20 min of stirring the aqueous layer was removed. The organic layer was washed with water and saturated sodium chloride, dried, filtered and concentrated. The residue was purified by flash chromatography using 20% diethylether in hexanes to give 1-methyl-1-hydroxymethylcyclohexane (6.17 g, 48 mmol, 69%). Step 2. 1-Methylcyclohexylcarboxaldehyde:

reactant | 1-methyl-1-hydroxycarbonylcyclohexane | 70 mmol, 10 g | CC1(CCCCC1)C(=O)O | C8H14O2
reactant | diborane | 1M | B#B | B2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mmol, 200 mL | O1CCCC1 | C4H8O
product | 1-methyl-1-hydroxymethylcyclohexane | 48 mmol, 6.17 g, 69% | CC1(CCCCC1)CO | C8H16O
